US06960664B2
A mixture of 2-methanesulfonylamino-thiazole-4-carboxylic acid methyl ester (5.5 g, 22 mmol) in 1M NaOH(50 mL) was stirred at rt for 1 h. The reaction mixture was extracted with ethyl acetate, concentrated and chromatographed on silica gel (ethyl acetate/ethanol, 97:3) to provide 2-methanesulfonylamino-thiazole-4-carboxylic acid (3.7 g) as a solid. MS (ESI−) for C5H6N2O4S2 m/z 220.9 (M−H)−.

reactant | 2-methanesulfonylamino-thiazole-4-carboxylic acid methyl ester | 22 mmol, 5.5 g | COC(=O)C=1N=C(SC1)NS(=O)(=O)C | C6H8N2O4S2
solvent | NaOH | 1M, 50 mL | [OH-].[Na+]
product | 2-methanesulfonylamino-thiazole-4-carboxylic acid | 3.7 g | CS(=O)(=O)NC=1SC=C(N1)C(=O)O | C5H6N2O4S2
